US04435567
1 ml of an aqueous ammonium hydroxide solution (25%) was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 20 ml acetone, under stirring. The reaction mixture was stirred for 30 minutes at ambient temperature, then evaporated in vacuo and the residue was crystallized from water. 0.60 g phenylurea melting at 148°-150° C. was obtained.

reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | phenylurea | 0.60 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
